US05502187
2-Bromo-1-pyridin-2-ylethanone hydrobromide (VI)
A mixture of bromine (4.28 ml) in 30 ml of carbon tetrachloride is added dropwise via addition funnel to a boiling mixture of 2-acetylpyridine (9.25 ml, Aldrich Chemical Co.) and carbon tetrachloride (65 ml). Addition is completed in 2 hr and within 15 minutes a solid began forming. Reflux continued for another 40 minutes before the reaction vessel is cooled to 0°. The solid precipitate is collected by filtration and dried (400°, 0.03 mm) for 3 hours to give the title compound, mp 212°-213°; NMR (CD3OD) 8.83-8.15, 3.86δ.

reactant | bromine | 4.28 ml | BrBr | Br2
reactant | 2-acetylpyridine | 9.25 ml | C(C)(=O)C1=NC=CC=C1 | C7H7NO
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 65 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromo-1-pyridin-2-ylethanone hydrobromide | Br.BrCC(=O)C1=NC=CC=C1 | InChI=1S/C7H6BrNO.BrH/c8-5-7(10)6-3-1-2-4-9-6;/h1-4H,5H2;1H
